US07807681B2
2.1H-Gly-4-Nitrobenzylamide hydrochloride
4-Nitrobenzylamine hydrochloride (1 g; 5.3 mmol) and diisopropylethylamine (1.8 ml; 10.6 mmol) were dissolved in 70 ml of dichloromethane at RT. BOC-Gly-OSu (1.44 g; 5.3 mmol) was added and the solution was stirred at RT overnight. After evaporating the solvent in a rotary evaporator, the residue was taken up in 50 ml of ethyl acetate and extracted in each case 2× with 5% KHSO4, 5% NaHCO3 and distilled water. The organic phase was dried over Na2SO4, the solvent was evaporated and toluene was then added and evaporated in a rotary evaporator. The resultant oil was dissolved, without further work-up, directly in 15 ml of 4M HCl/dioxane and stirred at RT. After a short time, the product starts to precipitate. After 1 h, the solvent was evaporated, the solid was suspended in 100 ml of ethyl acetate, filtered off and washed with petroleum ether. The white solid was dried under vacuum.

reactant | 4-Nitrobenzylamine hydrochloride | 5.3 mmol, 1 g | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | diisopropylethylamine | 10.6 mmol, 1.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | BOC-Gly-OSu | 5.3 mmol, 1.44 g | N(CC(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C11H16N2O6
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 1H-Gly 4-Nitrobenzylamide hydrochloride | NC[CH](=O)O.Cl.[N+](=O)([O-])C1=CC=C(C[NH-])C=C1 | InChI=1S/C7H7N2O2.C2H6NO2.ClH/c8-5-6-1-3-7(4-2-6)9(10)11;3-1-2(4)5;/h1-4,8H,5H2;2H,1,3H2,(H,4,5);1H/q-1;;
